US08912219B2
Step 2: (4-Fluoro-benzyl)-isobutyl-amine
A mixture of 4-fluorobenzaldehyde (6.0 mL, 55.93 mmol), and isobutylamine (3.72 g, 50.85 mmol) in toluene (30 mL) was heated at reflux using Dean-Stark apparatus of 5 hours. The mixture was stood at ambient temperature for 18 hours then cooled in an ice-bath. Sodium borohydride (2.89 g, 76.28 mmol) was added followed by MeOH (5 mL). After 1 hour at 0° C. the reaction was quenched with 1M HCl, basified with a saturated solution of NaHCO3 and extracted into EtOAc (3×). The combined extracts were washed with brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-10% MeOH in DCM) afforded the title compound (6.98 g, 76%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 7.28 (m, 2H), 7.00 (m, 2H), 3.74 (s, 2H), 2.42 (d, J=6.8 Hz, 2H), 1.76 (m, 1H), 0.91 (d, J=6.6 Hz, 6H).

reactant | 4-fluorobenzaldehyde | 55.93 mmol, 6.0 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | isobutylamine | 50.85 mmol, 3.72 g | C(C(C)C)N | C4H11N
reactant | Sodium borohydride | 76.28 mmol, 2.89 g | [BH4-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Fluoro-benzyl)-isobutyl-amine | 6.98 g, 76% | FC1=CC=C(CNCC(C)C)C=C1 | C11H16FN
